US08580812B2
C. N-(adamantan-1-ylmethyl)-2-(hydroxymethyl)pyrazolo[1,5-a]pyridine-4-carboxamide (Compound 3)
A 2.0 M solution of LiBH4 in THF (5.8 mL) is added dropwise to a solution of 4-[(adamantan-1-ylmethyl)carbamoyl]pyrazolo[1,5-a]pyridine-2-carboxylic acid ethyl ester (2.01 g, 5.27 mmol) and THF (50 mL) at 0° C. under N2. After 10 min, the ice bath is removed. After 3 h, additional 2.0 M solution of LiBH4 in THF (2.0 mL) is added. After 4 h, sat. aq. NH4Cl is added dropwise. The volatiles are removed under reduced pressure. H2O (20 mL) is added and the solids are collected by filtration. The solids are slurried in MeOH (75 mL) and warmed to 50° C. for 4 h. The volatiles are removed under reduced pressure to afford the title compound as a light tan solid. 1H NMR (300 MHz, CDCl3) δ: 8.58 (ddd, 1H), 7.56 (dd, 1H), 6.92 (t, 1H), 6.90 (s, 1H), 4.80 (s, 2H), 3.12 (s, 2H), 1.96-2.04 (m, 3H), 1.62-1.84 (m, 12H). LC-MS m/z (M+H+): 340.3; RT=1.27 min.

reactant | LiBH4 | [Li+].[BH4-]
reactant | 4-[(adamantan-1-ylmethyl)carbamoyl]pyrazolo[1,5-a]pyridine-2-carboxylic acid ethyl ester | 5.27 mmol, 2.01 g | C(C)OC(=O)C1=NN2C(C(=CC=C2)C(NCC23CC4CC(CC(C2)C4)C3)=O)=C1 | C22H27N3O3
solvent | THF | 5.8 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N-(adamantan-1-ylmethyl)-2-(hydroxymethyl)pyrazolo[1,5-a]pyridine-4-carboxamide | C12(CC3CC(CC(C1)C3)C2)CNC(=O)C=2C=3N(C=CC2)N=C(C3)CO | C20H25N3O2
